US07365193B2
4-(5,5-Dioxo-5H-5λ6-dibenzothiophen-3-yl)-1,4-diazabicyclo[3.2.2]nonane
A catalyst solution was prepared by mixing tris(dibenzylideneacetone)dipalladium (Pd2(dba)3; 15 mg, 0.016 mmol; Alfa) and racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP; 21 mg, 0.033 mmol; Strem) in toluene (1 mL) and heating the mixture to 90° C. for 15 min. The solution was cooled, and then added to a mixture of 1,4-diazabicyclo[3.2.2]nonane (105 mg, 0.83 mmol; see J. Med. Chem. 1993, 36, 2311) and 3,7-dibromodibenzothiophene-5,5-dioxide (0.60 g, 1.60 mmol; see J. Med. Chem. 1978, 21, 1084), in toluene (3 mL). Cs2CO3 (1.04 g, 3.2 mmol; Aldrich) was then added, and the reaction mixture was flushed with nitrogen and heated to 80-85° C. overnight. After cooling to room temperature, the mixture was filtered through diatomaceous earth and purified by chromatography (35 g silica gel, 1-10% gradient of NH4OH-MeOH (1:10) in CH2Cl2) to afford the title compound (102 mg, 0.30 mmol, 36% yield): MS (DCl/NH3) m/z 341 (M+H)+.

reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.033 mmol, 21 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 1,4-diazabicyclo[3.2.2]nonane | 0.83 mmol, 105 mg | N12CCNC(CC1)CC2 | C7H14N2
reactant | 3,7-dibromodibenzothiophene-5,5-dioxide | 1.60 mmol, 0.60 g | BrC=1C=CC2=C(S(C3=C2C=CC(=C3)Br)(=O)=O)C1 | C12H6Br2O2S
reactant | Cs2CO3 | 3.2 mmol, 1.04 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.016 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5,5-Dioxo-5H-5λ6-dibenzothiophen-3-yl)-1,4-diazabicyclo[3.2.2]nonane | 0.30 mmol, 102 mg, 36% yield | O=S1(C2=C(C3=C1C=CC=C3)C=CC(=C2)N2CCN3CCC2CC3)=O | C19H20N2O2S
